Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10],3.63063737348
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.12856783068
[H:12].[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9](=[O:10])[H:11]>>[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([O:10])([H:11])[H:12],-0.897087981406
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:9],1.79441881934
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])=[C:7][H:8]>>[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.81245376329
[H:1][C:2](=[C:3]([H:4])[H:5])[C:13]([C@:7]([O:6])([H:8])[C:9]([H:10])([H:11])[H:12])([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15],-0.8600610882590001
[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3][H:4],6.504568352590001
[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],0.7418264381290001
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],2.36064556132
[C:2]#[C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.530872124939999
[C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8],-5.80563608844
[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])#[C:8][H:9]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])=[C:8][H:9],-1.7538930871400005
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-1.45747202991
[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5][C:11]([C:8]([C:7]=[O:6])([H:9])[H:10])([H:12])[H:13],1.4486591919799998
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9][H:10],5.182532199100001
[O:1]=[C:2][C:6]([C:3]#[C:4][H:5])([H:7])[H:8]>>[O:1]=[C:2]1[C:3](=[C:4][H:5])[C:6]1([H:7])[H:8],1.0084928864799998
[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]#[C:3][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4],1.7262032207099998
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],1.46626191615
[C:1]#[C:2][C:3][C:10]([H:11])[H:12].[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:13]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.82405736926
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])[H:7].[O:1][O:2][C:3]([H:4])[C:8]([H:9])([H:10])[H:11],4.20226743
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],1.25495429104
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][O:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.684911568490001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],4.55774916559
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][C:9]([H:10])([H:11])[H:12].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8],3.88634116808
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5],4.74197689809
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12](=[O:11])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[O:11][C:12]1[H:13],1.44785036993
[C:3]#[C:4][C:5]([H:6])[O:7][O:8][H:9].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])[O:7][O:8][H:9],-7.7323409223000015
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])=[C:10][O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][C:3]([H:4])([H:5])[H:6],3.35154693165
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([O:4][C:5][H:6])=[C:8]([H:9])[H:10].[H:7],4.22142286182
